US08563541B2
Step 1: 2-[2,6-dichloro-4-(chloromethyl)phenyl]-3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepine
To a solution of [3,5-dichloro-4-(3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepin-2-yl)phenyl]methanol bis(trifluoroacetate) (20.0 g, 0.03 mmol) in toluene (1.0 mL) was added triethylamine (11 μL, 0.08 mmol) and stirred for 5 minutes, followed by the addition of thionyl chloride (5.0 μL, 0.06 mmol) at room temperature for 16 hours. The reaction mixture was diluted with methanol and purified by preparative LCMS at pH 10 to give the desired product (8.7 mg, 65%). LC/MS: 428 (M+H)+.

reactant | [3,5-dichloro-4-(3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepin-2-yl)phenyl]methanol bis(trifluoroacetate) | 0.03 mmol, 20.0 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.ClC=1C=C(C=C(C1C=1NC2=C(C3=C(NC4=C2C=CN=C4)N=CC=C3)N1)Cl)CO
reactant | triethylamine | 0.08 mmol, 11 μL | C(C)N(CC)CC | C6H15N
reactant | thionyl chloride | 0.06 mmol, 5.0 μL | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 1.0 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | CO | CH4O
product | 2-[2,6-dichloro-4-(chloromethyl)phenyl]-3,8-dihydroimidazo[4,5-d]dipyrido[2,3-b:4′,3′-f]azepine | 8.7 mg, 65% | ClC1=C(C(=CC(=C1)CCl)Cl)C=1NC2=C(C3=C(NC4=C2C=CN=C4)N=CC=C3)N1 | C20H12Cl3N5
